US04453004
In an apparatus similar to Example 1, 15.2 g (0.083 mol) of syringaldehyde and 15.0 g (0.11 mol) of potassium carbonate were heated to 105° C. under nitrogen and 15 ml (0.12 mol) of trimethyl phosphate were added over 10 minutes. The mixture was maintained at about 80° C. for 3 hours then cooled to 45° C. and quenched with 50 ml of H2O. The tan solid which precipitated was collected, washed with 3×50 ml of water and dried to give 15 g (92%) of 3,4,5-trimethoxybenzaldehyde.

reactant | syringaldehyde | 0.083 mol, 15.2 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | potassium carbonate | 0.11 mol, 15.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl phosphate | 0.12 mol, 15 ml | P(=O)(OC)(OC)OC | C3H9O4P
product | 3,4,5-trimethoxybenzaldehyde | 15 g, 92% | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
